US03976653
A solution of 33.9 g. of cis-1-benzyl-2-(p-methoxybenzyl)-3-piperidinecarboxylic acid in 340 ml. of diethyl ether is stirred at room temperature while 200 ml. of 1M methyl lithium is added dropwise. After this addition is completed, the reaction mixture is stirred and refluxed for 4 hours and poured over ice. The ether layer is separated and washed with 100 ml. of saturated aqueous sodium bicarbonate solution, dried, and filtered. The filtrate is concentrated to yield cis-3-acetyl-1-benzyl-2-(p-methoxybenzyl)piperidine.

reactant | cis-1-benzyl-2-(p-methoxybenzyl)-3-piperidinecarboxylic acid | C(C1=CC=CC=C1)N1[C@H]([C@H](CCC1)C(=O)O)CC1=CC=C(C=C1)OC | C21H25NO3
reactant | methyl lithium | 1M | C[Li]
solvent | diethyl ether | C(C)OCC | C4H10O
product | cis-3-acetyl-1-benzyl-2-(p-methoxybenzyl)piperidine | C(C)(=O)[C@@H]1[C@@H](N(CCC1)CC1=CC=CC=C1)CC1=CC=C(C=C1)OC | C22H27NO2
